US05681838
Methyl (3-(2-(3-(4-(aminoiminomethyl)phenyl)acryloylamino)ethyl)-2,5-dioxoimidazolidin-1-yl)phenylacetate hydrochloride
730 mg (2.34 mmol) of 4-tert-butoxycarbonylamidinocinnamic acid sodium salt are dissolved in 50 ml of dimethylformamide and 531 mg (2.57 mmol) of DCC and 316 mg (2.34 mmol) of HOBt are then added at 0° C. The mixture is stirred for 50 minutes and 355 mg (2.34 mmol) of methyl (3-(2-aminoethyl)-2,5-dioxoimidazolidin-1-yl)phenylacetate hydrochloride are then added. After stirring at room temperature for 20 h, the mixture is concentrated and the residue is chromatographed, for purification, on silica gel using a mixture of methylene chloride, methanol, glacial acetic acid and water=85:15:2:2. The fractions containing the pure substance are concentrated and freeze dried.

reactant | 4-tert-butoxycarbonylamidinocinnamic acid sodium salt | 2.34 mmol, 730 mg | [Na+].C(C)(C)(C)OC(=O)NC(=N)C1=CC=C(C=CC(=O)[O-])C=C1
reactant | DCC | 2.57 mmol, 531 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | 2.34 mmol, 316 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | methyl (3-(2-aminoethyl)-2,5-dioxoimidazolidin-1-yl)phenylacetate hydrochloride | 2.34 mmol, 355 mg | Cl.NCCN1C(N(C(C1)=O)C(C(=O)OC)C1=CC=CC=C1)=O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Methyl (3-(2-(3-(4-(aminoiminomethyl)phenyl)acryloylamino)ethyl)-2,5-dioxoimidazolidin-1-yl)phenylacetate hydrochloride | Cl.NN=CC1=CC=C(C=C1)C=CC(=O)NCCN1C(N(C(C1)=O)C(C(=O)OC)C1=CC=CC=C1)=O | InChI=1S/C24H25N5O5.ClH/c1-34-23(32)22(19-5-3-2-4-6-19)29-21(31)16-28(24(29)33)14-13-26-20(30)12-11-17-7-9-18(10-8-17)15-27-25;/h2-12,15,22H,13-14,16,25H2,1H3,(H,26,30);1H
